### ISSUE TITLE
RFC: use `Std.Refl`/`Std.Symm` instances in `rfl`/`symm`

### ISSUE THREAD

**Issue by SnirBroshi** [leanprover/lean4#15081]
### Proposal

When using the tactic `rfl` and no `@[refl]` lemmas apply, try to use `exact Std.Refl.refl _` to solve the goal.
(at the end of [`Lean.MVarId.applyRfl`](https://github.com/leanprover/lean4/blob/6a10ac8c22beadecabdbb0919c2b50214762f91d/src/Lean/Meta/Tactic/Rfl.lean#L99-L101))

Similarly, when using the tactic `symm` and no `@[symm]` lemmas apply, try to use `refine Std.Symm.symm _ _ ?_`.
(at the end of [`Lean.MVarId.applySymm`](https://github.com/leanprover/lean4/blob/6a10ac8c22beadecabdbb0919c2b50214762f91d/src/Lean/Meta/Tactic/Symm.lean#L101-L103), and maybe also for `Lean.Expr.applySymm` and `Lean.MVarId.symmSaturate`)

If those tactics fail, the error message should mention that in addition to using the `@[refl]`/`@[symm]` attributes, registering an `Std.Refl`/`Std.Symm` instance also works.

I'm not sure whether it's faster to go through the list of registered lemmas before or after trying to synthesize an instance, but in most cases probably trying to synthesize an instance after the tactics failed to find registered lemmas wouldn't make performance worse, since they were about to fail anyway.
There's also the possibility of deprecating the `@[refl]`/`@[symm]` tags in favor of `Std.Refl`/`Std.Symm` instances.

#### Code example:
```lean
def Int.SameParity (a b : Int) : Prop := 2 ∣ (a - b)

instance : Std.Refl Int.SameParity where
  refl _ := by simp [Int.SameParity]

instance : Std.Symm Int.SameParity where
  symm _ _ h := by simpa [Int.SameParity, Int.neg_sub] using Int.dvd_neg.mpr h

/--
error: Tactic `rfl` failed: No `[refl]` lemma registered for relation
  Int.SameParity

Hint: Add the `[refl]` attribute to reflexivity lemmas for `Int.SameParity` to use this tactic

⊢ Int.SameParity 5 5
-/
#guard_msgs in
example : Int.SameParity 5 5 := by
  rfl

/--
error: No applicable symmetry lemma found for
  Int.SameParity 3 7

Note: Additional symmetry lemmas can be registered using the `[symm]` attribute
-/
#guard_msgs in
example : Int.SameParity 3 7 := by
  symm
  simp [Int.SameParity]
```

Note that `attribute [refl] Std.Refl.refl` makes the first `example` work (although I don't know how performant it is, and it ruins `rfl`s error message), but `attribute [symm] Std.Symm.symm` does not work -- it causes a `declaration has metavariables` error.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
